.param P_Filter = 0.5
* generated from Dunlop Cry Baby GCB-95.schx
VCC VCC 0 DC 9
VIN IN 0 SIN(0 50m 500)
CC1 IN N3 10n
RR1 N3 0 2.2meg
CC2 0 N8 22p
QQ1 N3 N7 N9 MPSA13
RR3 N8 N9 1.8meg
RR4 N9 VCC 1k
RR5 N11 N12 68k
CC3 N12 N13 10n
RR6 N13 N18 1.5k
QQ2 N13 N15 N17 MPSA18
RR7 0 N15 390
RR9 N18 N20 33k
RR10 N19 N20 470k
CC4 N21 0 4.7u
RR11 N20 0 82k
RR12 N19 N24 470k
CC5 N19 N25 220n
RFilterA N25 0 {100k * (1-P_Filter)}
RFilterB 0 N27 {100k * P_Filter}
CC6 N24 N27 220n
QQ3 N24 N29 N30 MPSA18
RR14 VCC N29 1k
CC7 N18 N32 10n
RS1 N25 0 8
.tran 2u 100m 80m
.op
.control
  run
  quit
.endc
.end
